US07538123B2
(1) 2-Allyloxy-4-methoxynitrobenzene
1.88 g of 5-methoxy-2-nitrophenol was dissolved in 20 ml of N,N-dimethylformamide. Thereafter, 1.53 g of potassium carbonate and 1.03 ml of allyl bromide were successively added to the reaction solution. After the disappearance of materials had been confirmed, water and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with water and a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, and the residue was then purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 2.09 g of the subject compound.

reactant | 5-methoxy-2-nitrophenol | 1.88 g | COC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
reactant | potassium carbonate | 1.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.03 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Allyloxy-4-methoxynitrobenzene | 2.09 g | C(C=C)OC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C10H11NO4
